US06518423B1
N2-Cyano-N1-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamidine
500 mg of 8-aminomethyl-10H-pyrazino[2,3-b][1,4]benzothiazine and 400 mg of ethyl N2-cyanocarboxyimidate were dissolved in a solvent mixture of tetrahydrofuran (5 ml) with methanol (5 ml) and stirred at 40° C. for 1.5 hours. Then the reaction mixture was distributed into an aqueous solution of potassium carbonate and ethyl acetate. The organic layer was extracted, washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) and recrystallized from methanol/ethyl acetate. Thus, 170 mg of the title compound was obtained as yellow crystals.

reactant | 8-aminomethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 500 mg | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | N2-Cyano-N1-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamidine | 170 mg | C(#N)N=CNCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C13H10N6S
